US05686445
2-Chloro-6,11-dihydro-5-[4-[[[(2-methylphenyl)amino]carbonyl]amino]benzoyl]-5H-dibenz[b,e]azepine
As described for Example 122, a mixture of 0.348 g of 2-chloro-5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine and 0.175 g of o-tolylisocyanate in 15 ml of tetrahydrofuran is refluxed overnight and worked-up to give the product as a solid.

reactant | 2-chloro-5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 0.348 g | ClC1=CC2=C(N(CC3=C(C2)C=CC=C3)C(C3=CC=C(C=C3)N)=O)C=C1 | C21H17ClN2O
reactant | o-tolylisocyanate | 0.175 g | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-Chloro-6,11-dihydro-5-[4-[[[(2-methylphenyl)amino]carbonyl]amino]benzoyl]-5H-dibenz[b,e]azepine | ClC1=CC2=C(N(CC3=C(C2)C=CC=C3)C(C3=CC=C(C=C3)NC(=O)NC3=C(C=CC=C3)C)=O)C=C1 | C29H24ClN3O2
